US07838674B2
5.b: 8-Chloro-4,5-dihydro-2H-1,2,7-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester
(3-Chloro-5-oxo-5,6,7,8-tetrahydro-isoquinolin-6-yl)-oxo-acetic acid ethyl ester (1.4 g; 4.8 mmol) in EtOH (15 ml) is combined with H2NNH2.H2O (242 mg; 4.8 mmol) and refluxed for 1 hour. The mixture is left over night at room temperature and delivers the title compound as yellowish crystals. 1H-NMR (400 MHz; DMSO-d6): 8.37 (s, 1H); 7.68 (s, 1H); 4.36 (q, 2H); 3.5 (bs, 1H); 2.99 (m, 2H); 2.97 (m, 2H); 1.35 (t, 3H). MS (m/z) ES+: 278 (MH+).

reactant | (3-Chloro-5-oxo-5,6,7,8-tetrahydro-isoquinolin-6-yl)-oxo-acetic acid ethyl ester | 4.8 mmol, 1.4 g | C(C)OC(C(=O)C1C(C=2C=C(N=CC2CC1)Cl)=O)=O | C13H12ClNO4
reactant | H2NNH2.H2O | 4.8 mmol, 242 mg | NN.O
solvent | EtOH | 15 ml | CCO | C2H6O
product | 8-Chloro-4,5-dihydro-2H-1,2,7-triaza-cyclopenta[a]naphthalene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NN=C2C1CCC1=CN=C(C=C21)Cl | C13H12ClN3O2
